US08168659B2
Dissolve (±)-1-(4-bromo-phenyl)-5-(3-trifluoromethoxy-phenyl)-pyrrolidine-2,3-dione (14.6 g, 35.2 mmol) in dichloromethane (35 mL). Add (R)-(+)-α-methylbenzylamine (6.8 mL, 52.8 mmol) and stir overnight at ambient temperature. Concentrate the reaction mixture under reduced pressure and purify by silica gel chromatography (ethyl acetate-hexane) to yield (S)-1-(4-bromo-phenyl)-3-((R)-1-phenyl-ethylamino)-5-(3-trifluoromethoxy-phenyl)-1,5-dihydro-pyrrol-2-one-eluting first (6.6 g, 36%): MS (m/z): 517.0 (M+1). RP HPLC: Tr=5.53 min (Method 3) and eluting second (R)-1-(4-bromo-phenyl)-3-((R)-1-phenyl-ethylamino)-5-(3-trifluoromethoxy-phenyl)-1,5-dihydro-pyrrol-2-one (5.8 g, 32%): MS (m/z): 517.0 (M+1). RP HPLC: Tr=5.44 min. (Method 3)

reactant | (±)-1-(4-bromo-phenyl)-5-(3-trifluoromethoxy-phenyl)-pyrrolidine-2,3-dione | 35.2 mmol, 14.6 g | BrC1=CC=C(C=C1)N1C(C(CC1C1=CC(=CC=C1)OC(F)(F)F)=O)=O | C17H11BrF3NO3
reactant | (R)-(+)-α-methylbenzylamine | 52.8 mmol, 6.8 mL | C[C@H](C1=CC=CC=C1)N | C8H11N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | (S)-1-(4-bromo-phenyl)-3-((R)-1-phenyl-ethylamino)-5-(3-trifluoromethoxy-phenyl)-1,5-dihydro-pyrrol-2-one | BrC1=CC=C(C=C1)N1C(C(=C[C@H]1C1=CC(=CC=C1)OC(F)(F)F)N[C@H](C)C1=CC=CC=C1)=O | C25H20BrF3N2O2
